US08981084B2
tert-Butyl 4-(2-phenylthiazole-4-carbonyl)piperazine-1-carboxylate
This compound was synthesized from tert-butyl piperazine-1-carboxylate and 2-phenylthiazole-4-carboxylic acid as described for example 37 step 3 (500 mg, yield 90%). 1H NMR (400 MHz, DMSO-d6) δ 8.20 (s, 1H), 8.00-7.96 (m, 2H), 7.56-7.53 (m, 3H), 3.76-3.64 (m, 4H), 3.43 (m, 4H), 1.42 (s, 9H). MS (ESI) m/z: Calculated for C19H23N3O3S: 373.15. found: 374.2 (M+H)+

reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-phenylthiazole-4-carboxylic acid | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)O | C10H7NO2S
product | tert-Butyl 4-(2-phenylthiazole-4-carbonyl)piperazine-1-carboxylate | yield 90% | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C19H23N3O3S
